US04786646
A mixture of 22.7 g of 3-(4-methyl-pentenyl)pyridine and 22.8 g of 2-nitrobenzeneacetonitrile in 80 mL of acetic acid was cooled to 12°-13° C. and then 16 mL of sulfuric acid was added dropwise over 6 minutes. The reaction was stirred for 2 hours at ambient temperature, then after the acetic acid was removed in vacuo, 1 L of water was added and the mixture was extracted with dichloromethane to remove neutral impurities. The aqueous layer was basified with 10N sodium hydroxide, and extracted with dichloromethane (4×200 mL). The dried (K2CO3) extracts were evaporated to give 35.6 g of N-[1,1-dimethyl(3-pyridyl)butyl]-2-nitrobenzeneacetamide. A portion was crystallized from ethyl acetate-hexane to yield the analytical sample, mp 117°-118.5° C.

reactant | 3-(4-methyl-pentenyl)pyridine | 22.7 g | CC(CC=CC=1C=NC=CC1)C | C11H15N
reactant | 2-nitrobenzeneacetonitrile | 22.8 g | [N+](=O)([O-])C1=C(C=CC=C1)CC#N | C8H6N2O2
reactant | sulfuric acid | 16 mL | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | N-[1,1-dimethyl(3-pyridyl)butyl]-2-nitrobenzeneacetamide | 35.6 g | CC(CCCC=1C=NC=CC1)(C)NC(CC1=C(C=CC=C1)[N+](=O)[O-])=O | C19H23N3O3
